US07674789B2
3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (20 mg, 0.04 mmol) in THF (3 mL) was added 1-methyl-4-piperidinamine (20 mg, 0.176 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (18 mg, 82%). LC-MS m/z 550 (M+H)+; 1H-NMR (MeOD) δ 1.26 (d, 6H), 1.48 (m, 2H), 1.88 (m, 4H), 2.24 (s, 3H), 2.29 (s, 3H), 2.75 (m, 2H), 3.18 (m, 1H), 4.09 (s, 2H), 4.23 (m, 1H), 7.15 (t, 2H), 7.46 (d, 1H), 7.52 (m, 1H), 7.69 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.04 mmol, 20 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | 1-methyl-4-piperidinamine | 0.176 mmol, 20 mg | CN1CCC(CC1)N | C6H14N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methyl-N-(1-methylethyl)benzamide | 18 mg, 82% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)NC2CCN(CC2)C)=O | C29H33F2N7O2
